US04137236
Dry gaseous hydrogen chloride is bubbled into a suspension of 6.6 g (0.0144 mole) of tert-butyl alpha-amino-4-benzyloxycarbonyl-8-oxa-1-thia-3-azaspiro[4,5]decane-2-acetate hydrochloride in 150 ml of anhydrous nitromethane at 0° C. After 15 minutes, most of the product has dissolved and the bubbling of hydrogen chloride is continued for 1 hour. Insoluble material is filtered off and the nitromethane solution is degassed at a pressure of 20 mm Hg in a rotary evaporator at ambient temperature to eliminate as much gaseous hydrogen chloride as possible. 700 ml of anhydrous diethyl ether are added, followed by cooling to -5° C for 4 hours. In this way, a precipitate is obtained which is filtered off, washed with diethyl ether and dried in vacuo to give 4.2 g (0.0104 mole) of alpha-amino-4-benzyloxycarbonyl-8-oxa-1-thia-3-azaspiro[4.5]decane-2-acetic acid hydrochloride (yield: 72.5% of theory); M.P. 152-153° C.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl alpha-amino-4-benzyloxycarbonyl-8-oxa-1-thia-3-azaspiro[4,5]decane-2-acetate hydrochloride | 0.0144 mole, 6.6 g | Cl.NC(C(=O)OC(C)(C)C)C1SC2(C(N1)C(=O)OCC1=CC=CC=C1)CCOCC2
solvent | nitromethane | 150 ml | [N+](=O)([O-])C | CH3NO2
product | alpha-amino-4-benzyloxycarbonyl-8-oxa-1-thia-3-azaspiro[4.5]decane-2-acetic acid hydrochloride | 0.0104 mole, 4.2 g, yield: 72.5% | Cl.NC(C(=O)O)C1SC2(C(N1)C(=O)OCC1=CC=CC=C1)CCOCC2 | InChI=1S/C17H22N2O5S.ClH/c18-12(15(20)21)14-19-13(17(25-14)6-8-23-9-7-17)16(22)24-10-11-4-2-1-3-5-11;/h1-5,12-14,19H,6-10,18H2,(H,20,21);1H
